Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ranitidine / Aldactone
 
Attending: ___
 
Chief Complaint:
CC: ___
 
Major ___ or Invasive Procedure:
None

 
History of Present Illness:
___ F with heart failure with preserved ejection fraction (last 
EF ___ measured at 75%) here with dyspnea.

Left ___ ___ against medical advice. Reports that she didn't 
have any dietary indiscretions at home, but is known to be 
non-compliant.  Went home, where she reports she felt 
increasingly SOB.  When she went to lie down flat in bed to 
sleep she says that she couldn't breathe and had to sit up to 
breath better.  In addition, when she lay down she got a sharp 
pain in her L chest that was a/w sweatiness and palpitations but 
no N/V, and the pain did not radiate.  The pain lasted until she 
got to the ED, where they gave her "some medication" that made 
the pain go away while she was siting still.  She reports that 
when she moves postions, the chest pain returns.   

Vitals on arrival to ___: T 98.0, P 74, BP 125/49 83 on RA; 
improved to 99% 3LNC. She received lasix 60mg IV and 40 mEq of 
potassium.
 
Past Medical History:
1. Nonobstructive hypertrophic cardiomyopathy with diastolic
congestive heart failure:
- Echo (___) with EF >= 65%,
- Uses 3L O2 at home continuosly
- Cath with no CAD (___)
2. Hypertension
3. Hyperlipidemia
4. Paroxysmal atrial fibrillation on coumadin- was ?atypical
left hemisensory sx when diagnosed in ___
5. Diabetes mellitus, type II
6. Asthma
7. Multifactorial sleep disordered breathing with
hypoventilation and obstructive componenet: on BIPAP with O2
8. Depression
9. Chronic pain (neck, headache, joints)
10. History of GI bleed secondary to antral ulcer in ___
negative for h.pylori
11. History of positive PPD -- no INH per patient
12. History of pericarditis complicated by tamponade (___)
13. History of thalamic stroke (___)
14. s/p TAH
15. Chronic kidney disease: baseline creatinine ~2.8
16. Gout 
 
Social History:
___
Family History:
Family history of type II diabetes mellitus 
 
Physical Exam:
Admission Physical 
vitals: 98.4, 124/67, 68 (68-59), 24 (___), 100% 3L (100% on 
___
PE: General: Alert, oriented, resting in bed comfortably. 
HEENT: Sclera anicteric, MMM, oropharynx clear. 
Neck: JVP difficult to visuazlie ___ habitus.
Lungs: Rare end-expiratory wheezes. No crackles or rhonchi. 
ronchi.
CV: irreg irreg, normal S1 + S2, II/VI systolic murmur. No rubs 
or gallops. TTP over the left breast. 
Abdomen: obese soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding. Organomegaly could 
not be assessed ___ habitus. 
Ext: warm, well perfused, 2+ pulses, no clubbing or cyanosis. 
___ lower-extremity pitting edema to mid-shins. 

Discharge Physical Exam
 
Pertinent Results:
Chemistries:
 - ___ 02:45AM   GLUCOSE-208* UREA N-101* CREAT-3.5* 
SODIUM-132* POTASSIUM-6.8* CHLORIDE-88* TOTAL CO2-35* ANION 
GAP-16 cTropnT-0.12* proBNP-6415*
 - ___ 02:49AM   GLUCOSE-194* LACTATE-1.9 NA+-138 K+-4.5 
CL--87* TCO2-36*
 - ___ 03:30AM   GLUCOSE-211* UREA N-101* CREAT-3.5* 
SODIUM-135 POTASSIUM-3.2* CHLORIDE-89* TOTAL CO2-36* ANION 
GAP-13

Hematology:
 - ___ 02:49AM   HGB-7.9* calcHCT-24
 - ___ 03:30AM   WBC-12.8* (NEUTS-84.1* LYMPHS-8.4* 
MONOS-6.7 EOS-0.5 BASOS-0.3) RBC-2.99* HGB-7.3* HCT-24.0* 
MCV-80* MCH-24.5* MCHC-30.6* RDW-18.0* PLT COUNT-370

Coagulation Studies:
 - ___ 02:45AM   ___ PTT-37.7* ___

Urine Studies:
 - ___ 03:50AM URINE  COLOR-Yellow APPEAR-Clear SP 
___ BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG 
KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-NEG

CXR: Enlarged cardiac silhouette, bilateral pleural effusions. 
Final read pending.
 
Brief Hospital Course:
___ y/o chronically ill woman with MMP including CHF 
(nonobstructive CMP with EF>65% and diastolic HF), HTN, HL, DM2, 
CRF (baseline Cre ~ 2.8), gout who was admitted with mild left 
MSK chest pain, and SOB likely related to CHF.
.
P: # Acute on chronic renal failure (CKD, Stage 4)
Creatinine of 3.5 on admission (previous baseline 2.8), c/w 
acute on chronic renal failure. Her renal failure was felt to be 
most likely cardiac in etiology secondary to poor forward flow 
resulting in prerenal ARF. She was seen by renal who recommended 
lasix gtt and metolazone, and acetazolamide which could help 
with diuresis and hypercarbia. They also recommended starting 
her on iron supp.  Pt was transitioned to a PO regimen of lasix 
120mg BID, metolazone 10mg QD and acetazolamide 250mg TID the 
day before dispo.
.
# Acute on Chronic CHF (diastolic): Patient is on 3L NC at home 
at baseline, and has now improved to 100% on 2L here. Pt became 
volume neg on lasix gtt at 20, acetazolamide and 10mg 
metolazone.  Pt may need hemodialysis in the future, but was 
able to avod it on this admission with maximal doses of lasix 
gtt.  
.
# DM: Patient had been on 40 units glargine QHS at home and 
Insulin regimen was adjusted while in-house. She is now on 
30units glargine QHS with an insulin SS and 4 units humalog with 
meals.  Sugars are well-controlled on this regimen.
.
# AFib:  Previously, patient was on Coumadin 3 mg MWF, 2 mg 
___. As she was supratherapeutic on this dose she was 
changed to 1mg QD, with INR stable around 2.5 - 2.6.  
.
# Gout: Stable.  Continued allopurinol at renally dosed amount 
(100mg QD)at home dose. 
.
# Chest pain: Present on last admission, felt at that time to be 
most likely musculoskeletal in origin; improved with 
conservative management. Troponins were at baseline x 3 at last 
admission and again baseline x1 this admission, and pt had no 
EKG changes suggestive of ischemic cardiac event on both the 
last admission and this admission.
.
# Discharge/AMA: On last admission, patient was seen by ___ who 
recommended that she be discharged to a rehab facility due to 
poor physical capacity. However, patient refused rehab and left 
AMA to go home.  This dispo they recommended home with ___ 
services.

 
Medications on Admission:
1. Gabapentin 300 mg PO Q48H 
2. Allopurinol 50 mg PO DAILY 
3. Carvedilol 6.25 mg PO BID 
4. AcetaZOLamide 250 mg PO Q24H Start: In am 
5. Docusate Sodium 100 mg PO BID 
6. Amiodarone 200 mg PO DAILY 
7. Warfarin 2.5 mg PO DAILY16 
8. Amlodipine 10 mg PO DAILY 
9. Simvastatin 10 mg PO DAILY 
10. Torsemide 20 mg PO BID 
11. TraMADOL (Ultram) 50 mg PO Q12H:PRN joint pain 
12. Metoclopramide 5 mg PO QIDACHS 
13. Pantoprazole 40 mg PO Q24H 
14. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
Hold for K > 4.5 
15. Calcitriol 0.25 mcg PO MON AND WEDS 
16. PredniSONE 10 mg PO DAILY 
17. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Metolazone 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
2. Acetazolamide 250 mg Tablet Sig: One (1) Tablet PO three 
times a day.
Disp:*90 Tablet(s)* Refills:*2*
3. Allopurinol ___ mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
4. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q48H (every 
48 hours).  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
9. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Tramadol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for pain.  
11. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
12. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. Carvedilol 12.5 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
14. Warfarin 1 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
15. Metolazone 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
16. Acetazolamide 250 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours).  
17. Insulin Glargine 100 unit/mL Solution Sig: Thirty (30) units 
Subcutaneous at bedtime.  
18. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous four times a day: Per your home sliding scale.  
19. Furosemide 40 mg Tablet Sig: Three (3) Tablet PO twice a 
day.
Disp:*180 Tablet(s)* Refills:*2*
20. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
21. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: Two (2) Tab Sust.Rel. Particle/Crystal PO once a day.
Disp:*60 Tab Sust.Rel. Particle/Crystal(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Acute on chronic diastolic heart failure
         Acute on chronic renal failure

SECONDARY: diabetes mellitus type two
           hypertension
           hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were seen in the hospital for shortness of breath.  We 
determined that you had too much fluid in your lungs, and we 
gave you diuretics to help reduce that fluid.  Your shortness of 
breath decreased as we diuresed you, and we sent you home 
feeling better with minimal fluid around your lungs.

Medication Changes: 
-STARTED lasix 120 mg by mouth twice daily
- STARTED iron 325 mg po twice daily
- STARTED metolazone 10 mg by mouth daily
-Decreased warfarin from 2 mg to 1 mg by mouth daily
-Decreased glargine (lantus) to 30 units per day
-Increased carvedilol to 25 mg po twice a day
-Increased acetazolamide 250 mg by mouth three times a day
-Increased potassium supplement to 40 mEq per day

Please keep all of your follow-up appointment and take your 
medication exactly as directed.

If you experience any of the below listed warning signs, please 
call your doctor or go to the nearest emergency room.

It was a pleasure taking care of you on this hospitalization.  
 
Followup Instructions:
___